US08957074B2
Following general amide formation method 1, 6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid (200 mg, 0.507 mmol, 1.0 eq) was combined with 3-benzyl-9-oxa-3,7-diaza-bicyclo[3.3.1]nonane (162 mg, 0.558 mmol, 1.1 eq) (Reference: PCT Int. Appl. 2006137769, 2 Dec. 2006) which gave 2-[5-(7-Benzyl-9-oxa-3,7-diaza-bicyclo[3.3.1]nonane-3-carbonyl)-pyridin-2-ylamino]-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as solid (131 mg) in 39% yield.

reactant | 6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid | 0.507 mmol, 200 mg, 1.0 eq | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | 3-benzyl-9-oxa-3,7-diaza-bicyclo[3.3.1]nonane | 0.558 mmol, 162 mg, 1.1 eq | C(C1=CC=CC=C1)N1CC2CNCC(C1)O2 | C13H18N2O
product | 2-[5-(7-Benzyl-9-oxa-3,7-diaza-bicyclo[3.3.1]nonane-3-carbonyl)-pyridin-2-ylamino]-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 131 mg, 39% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC3CN(CC(C2)O3)CC3=CC=CC=C3)N1C1CCCC1)C | C33H38N8O3
